US08912186B2
By a procedure similar to that of example 1.59.1, starting from benzaldehyde and 2-acetylnaphthalene, 1-(2-naphthalenyl)-3-phenylprop-2-en-1-one was obtained as yellowish solid.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-acetylnaphthalene | C(C)(=O)C1=CC2=CC=CC=C2C=C1 | C12H10O
product | 1-(2-naphthalenyl)-3-phenylprop-2-en-1-one | C1=C(C=CC2=CC=CC=C12)C(C=CC1=CC=CC=C1)=O | C19H14O
